US08859577B2
A solution of 4-(4-(methoxycarbonyl)benzyloxy)benzoic acid (25 mg, 0.087 mmol), 1-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one (26 mg, 0.087 mmol), diisopropylethylamine (53 μL, 0.30 mmol), 1,2,3-benzotriazole-1-ol, monohydrate (14 mg, 0.087 mmol), 4-dimethylaminopyridine (1.1 mg, 0.01 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (19 mg, 0.96 mmol) in dichloromethane (0.2 mL) was heated at 30° C. for 18 hr. The reaction mixture was partitioned between ethyl acetate/aqueous 0.3N hydrochloric acid, the organic phase was dried over sodium sulfate, concentrated in vacuo and purified by preparative HPLC to afford methyl 4-((4-(1-tert-butyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)phenoxy)methyl)benzoate. HPLC column: Waters Atlantis C18 4.6×50 mm, 5 um, solvent: acetonitrile:water (0.05% TFA); flow rate 2 mL/min; gradient (% organic) start=5%, end=95%, gradient time=4 min, retention time=3.68 min; m/z=530 (M+1).

reactant | 4-(4-(methoxycarbonyl)benzyloxy)benzoic acid | 0.087 mmol, 25 mg | COC(=O)C1=CC=C(COC2=CC=C(C(=O)O)C=C2)C=C1 | C16H14O5
reactant | 1-tert-butyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one | 0.087 mmol, 26 mg | C(C)(C)(C)N1N=CC=2CC3(CCNCC3)CC(C12)=O | C15H23N3O
reactant | diisopropylethylamine | 0.30 mmol, 53 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,2,3-benzotriazole-1-ol, monohydrate | 0.087 mmol, 14 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.96 mmol, 19 mg | C(C)N=C=NCCCN(C)C | C8H17N3
catalyst | 4-dimethylaminopyridine | 0.01 mmol, 1.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | methyl 4-((4-(1-tert-butyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)phenoxy)methyl)benzoate | C(C)(C)(C)N1N=CC=2CC3(CCN(CC3)C(=O)C3=CC=C(OCC4=CC=C(C(=O)OC)C=C4)C=C3)CC(C12)=O | C31H35N3O5
